US05254595
A mixture of 2-amino-7-hydroxytetralin (1.9 g) and 1-(2-chlorophenoxy)-2,3-epoxypropane (2.15 g) in absolute ethanol (60 ml) is refluxed for 5 hours and then ethanol is evaporated off under reduced pressure. The thus obtained residue is chromatographed on a silica gel column eluting first with ethyl acetate up to the complete elution of the first spot and then with a mixture ethyl acetate/methanol 9/1 v/v. The obtained fractions are pooled and concentrated to dryness. The residue is dissolved in isopropanol (20 ml) and the obtained solution is acidified by the addition of HC1/isopropanol. The precipitate is recovered by filtration yielding 2.25 g of N-(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-chlorophenoxy)propanamine hydrochloride; m.p. 201°-203° C.

reactant | 2-amino-7-hydroxytetralin | 1.9 g | NC1CC2=CC(=CC=C2CC1)O | C10H13NO
reactant | 1-(2-chlorophenoxy)-2,3-epoxypropane | 2.15 g | ClC1=C(OCC2CO2)C=CC=C1 | C9H9ClO2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | N-(7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-chlorophenoxy)propanamine hydrochloride | 2.25 g | Cl.OC1=CC=C2CCC(CC2=C1)NCC(COC1=C(C=CC=C1)Cl)O | InChI=1S/C19H22ClNO3.ClH/c20-18-3-1-2-4-19(18)24-12-17(23)11-21-15-7-5-13-6-8-16(22)10-14(13)9-15;/h1-4,6,8,10,15,17,21-23H,5,7,9,11-12H2;1H
